### PR TITLE
ErdosProblems: add 199, 224, 226, 246, 296, 363 (#3998 sync)

### PR DESCRIPTION
**Pull request by williamjblair**
## Summary

Adds Formal Conjectures statement files for Erdős Problems 199, 224, 226, 246, 296, and 363 — solved problems with a hosted Lean 4 proof but no FC statement yet. Each file states the main `theorem erdos_n` from the boxed erdosproblems.com question and links the hosted proof.

Part of #3998.

For each problem I confirmed the linked proof actually proves the stated theorem — same quantifiers, no extra hypotheses — and that `#print axioms` on the hosted proof reports only `[propext, Classical.choice, Quot.sound]`.

The external formal proofs are not mine; attribution follows the upstream proof headers (Aristotle, Boris Alexeev, John Jennings, Wouter van Doorn, JoshuaB, and others as listed), via @plby's hosted Lean proof index.

## Note to self

214 and 337 were dropped from this batch: the available hosted proofs prove a weaker/different statement than the question (an existential where the problem is universal), so they need a matching proof before they can be linked. Holding them for a follow-up.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/199.lean [hunk 1]
```diff
@@ -0,0 +1,46 @@
...
+/--
+If $A\subset \mathbb{R}$ does not contain a 3-term arithmetic progression then must $\mathbb{R}\backslash A$ contain an infinite arithmetic progression?
+
+Baumgartner [Ba75] answered this in the negative.
+-/
+@[category research solved, AMS 5,
+  formal_proof using lean4 at "https://github.com/plby/lean-proofs/blob/main/src/v4.29.1/ErdosProblems/Erdos199.lean"]
+theorem erdos_199 : answer(False) ↔
+    ∀ A : Set ℝ, ThreeAPFree A →
+      ∃ S : Set ℝ, IsInfiniteAP S ∧ S ⊆ Aᶜ := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/199.lean]:
```suggestion
      ∃ S : Set ℝ, S.IsAPOfLength ⊤ ∧ S ⊆ Aᶜ := by
```

File: FormalConjectures/ErdosProblems/199.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+- [erdosproblems.com/199](https://www.erdosproblems.com/199)
+- [Ba75] Baumgartner, James E., *Partitioning vector spaces*. J. Combinatorial Theory
+  Ser. A (1975), 231-233.
+-/
+
+namespace Erdos199
+
+/-- A set of reals is an infinite arithmetic progression. -/
+def IsInfiniteAP (S : Set ℝ) : Prop :=
+  ∃ a b : ℝ, b ≠ 0 ∧ S = {x | ∃ n : ℕ, x = a + n * b}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/199.lean]:
```suggestion
```

We already have API for that, see below

File: FormalConjectures/ErdosProblems/224.lean [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+- [erdosproblems.com/224](https://www.erdosproblems.com/224)
+- [DaGr62] Danzer, L. and Gr\"{u}nbaum, B., *\"{U}ber zwei Probleme
+  bez\"{u}glich konvexer K\"{o}rper von P. Erd\H{o}s und von V. L. Klee*.
+  Math. Z. (1962), 95-99.
+-/
+
+namespace Erdos224
+
+abbrev E (d : ℕ) := EuclideanSpace ℝ (Fin d)
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/224.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/224.lean [hunk 4]
```diff
@@ -0,0 +1,49 @@
...
+  inner ℝ (y - x) (z - x) < 0
+
+/--
+If $A\subseteq \mathbb{R}^d$ is any set of $2^d+1$ points then some three points in $A$ determine an obtuse angle.
+
+The general case was proved by Danzer and Gr\"{u}nbaum [DaGr62].
+-/
+@[category research solved, AMS 52,
+  formal_proof using lean4 at "https://github.com/plby/lean-proofs/blob/main/src/v4.29.1/ErdosProblems/Erdos224.lean"]
+theorem erdos_224 {d : ℕ} (A : Finset (E d)) (hcard : A.card = 2 ^ d + 1) :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/224.lean]:
```suggestion
theorem erdos_224 {d : ℕ} (A : Finset (ℝ^d)) (hcard : A.card = 2 ^ d + 1) :
```
we have this notation in ForMathlib

File: FormalConjectures/ErdosProblems/226.lean [hunk 5]
```diff
@@ -0,0 +1,58 @@
...
+
+Barth and Schneider [BaSc70] proved the stronger result for countable dense subsets of
+$\mathbb{R}$.
+-/
+@[category research solved, AMS 30,
+  formal_proof using lean4 at "https://github.com/plby/lean-proofs/blob/main/src/v4.29.1/ErdosProblems/Erdos226.lean"]
+theorem erdos_226 : answer(True) ↔
+    ∃ F : ℂ → ℂ, Differentiable ℂ F ∧ (∀ x : ℝ, (F x).im = 0) ∧
+      ¬ IsAffine (fun x : ℝ => (F x).re) ∧
+      PreservesRationality (fun x : ℝ => (F x).re) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/226.lean]:
```suggestion
     (∀ g : AffineMap ℝ ℝ ℝ, (fun x : ℝ => (F x).re) ≠ g) ∧
      PreservesRationality (fun x : ℝ => (F x).re) := by
```
Not tested, please check that this is equivalent!

File: FormalConjectures/ErdosProblems/226.lean [hunk 6]
```diff
@@ -0,0 +1,58 @@
...
+- [Ha74] Hayman, W. K., *Research problems in function theory: new problems*.
+  (1974), 155--180.
+-/
+
+namespace Erdos226
+
+/-- A real function is affine. -/
+def IsAffine (f : ℝ → ℝ) : Prop :=
+  ∃ a b : ℝ, ∀ x, f x = a * x + b
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/226.lean]:
```suggestion
```

I think we can just use Mathlib's `AffineMap ℝ ℝ ℝ`? Made a suggestion for it below, please check

**Review by mo271 — COMMENTED** [review]
Thanks, looks good generally, just some comments about avoiding ad-hoc redefinitions...!

**Comment by williamjblair** [comment]
Thanks @mo271, addressed all three:

- **199** — now `S.IsAPOfLength ⊤`, dropped the local `IsInfiniteAP`.
- **224** — switched to the `ℝ^d` notation (`open scoped EuclideanGeometry`), dropped the `E` abbrev.
- **226** — replaced `¬ IsAffine …` with `∀ g : AffineMap ℝ ℝ ℝ, … ≠ g`, dropped `IsAffine`. On the equivalence you flagged: affine maps `ℝ → ℝ` are exactly `x ↦ a·x + b`, so `IsAffine f ↔ ∃ g : AffineMap ℝ ℝ ℝ, ⇑g = f`, and hence `¬ IsAffine f ↔ ∀ g, f ≠ ⇑g` — same statement.

All three compile clean (only the `sorry` warning).

Will check the other PRs again for similar issues/improvements I can make

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
